US08686024B2
Synthesis of 1-benzylindolin-5-yl n-propylcarbamate
The title compound was synthesized from 1-benzylindolin-5-ol (15.0 mg, 66.6 μmol) using the same procedure employed for Example 2 (2), but with n-propylisocyanate instead of 4-isopropylphenylisocyanate. The product was obtained as a white solid (12.3 mg, 60%) having the following characteristics.

reactant | 1-benzylindolin-5-ol | 66.6 μmol, 15.0 mg | C(C1=CC=CC=C1)N1CCC2=CC(=CC=C12)O | C15H15NO
reactant | n-propylisocyanate | C(CC)N=C=O | C4H7NO
product | 1-benzylindolin-5-yl n-propylcarbamate | C(CC)NC(OC=1C=C2CCN(C2=CC1)CC1=CC=CC=C1)=O | C19H22N2O2
